US08232300B2
(6) Methyl 4-[(6a-methyl-5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]benzoate
A solution of 6a-methyl-5,6,6a,7,8,9-hexahydro-4H-2-phenalenylamine (0.138 g) in anhydrous benzene (5 ml) and pyridine (2 ml) was added with monomethyl terephthalate chloride (0.177 g), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added with 2 N aqueous hydrochloric acid and thereby made acidic, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water, 10% aqueous sodium carbonate, water and saturated brine, and then dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from chloroform-n-hexane to obtain the title compound (0.205 g, yield: 82%) as colorless needles (melting point: 217-218° C.).

reactant | 6a-methyl-5,6,6a,7,8,9-hexahydro-4H-2-phenalenylamine | 0.138 g | CC12CCCC3=CC(=CC(CCC1)=C32)N | C14H19N
reactant | monomethyl terephthalate chloride | 0.177 g | [Cl-].C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 4-[(6a-methyl-5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]benzoate | 0.205 g, yield: 82% | CC12CCCC3=CC(=CC(CCC1)=C32)NC(=O)C3=CC=C(C(=O)OC)C=C3 | C23H25NO3
